US09422292B2
A mixture of (R)-8-bromo-6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (40.2 mg, 0.1 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2(1H)-one (44.2 mg, 0.2 mmol), tetrakis(triphenylphosphine)palladium(0) (12 mg, 0.01 mmol), cesium carbonate (98 mg, 0.3 mmol), toluene (2 mL), ethanol (1 mL) and water (3 drops) was stirred at 100° C. for 16 hours. The mixture was diluted with water (10 mL) and extracted with ethyl acetate (3*20 mL). The combined organic layers were washed with water (3*20 mL), brine (3*20 mL), dried over anhydrous sodium sulfate and filtered. The solvent was evaporated in vacuum, and then the residue was purified by column chromatography (silica gel, dichloromethane/methanol=15:1) to give (R)-5-(6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2(1H)-one as a white solid (20 mg, 48%).

reactant | (R)-8-bromo-6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.1 mmol, 40.2 mg | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C3=CC=C(C=C3)Cl)C1 | C18H16BrClN4
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2(1H)-one | 0.2 mmol, 44.2 mg | CC1(OB(OC1(C)C)C=1C=CC(NC1)=O)C | C11H16BNO3
reactant | cesium carbonate | 0.3 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | water | 3 drops | O | H2O
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (R)-5-(6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2(1H)-one | 20 mg, 48% | ClC1=CC=C(C=C1)N1C2=C(N3C([C@@H](C1)C)=NN=C3C)C=CC(=C2)C=2C=CC(NC2)=O | C23H20ClN5O
